US08039503B2
tert-butyl 4-{[(7-chloro-3,4-dioxo-3,4-dihydronaphthalen-1-yl)thio]methyl}-4-hydroxypiperidine-1-carboxylate was synthesized using tert-butyl 4-hydroxy-4-(mercaptomethyl)piperidine-1-carboxylate, 6-chloronaphthalene-1,2-dione, acetonitrile as the solvent and conditions outlined in procedure F [step (i)]. The intermediate was purified by flash column chromatography (SiO2, 30% EtOAc in hexanes to 50% EtOAc in hexanes).

reactant | tert-butyl 4-hydroxy-4-(mercaptomethyl)piperidine-1-carboxylate | OC1(CCN(CC1)C(=O)OC(C)(C)C)CS | C11H21NO3S
reactant | 6-chloronaphthalene-1,2-dione | ClC=1C=C2C=CC(C(C2=CC1)=O)=O | C10H5ClO2
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-butyl 4-{[(7-chloro-3,4-dioxo-3,4-dihydronaphthalen-1-yl)thio]methyl}-4-hydroxypiperidine-1-carboxylate | ClC1=CC=C2C(C(C=C(C2=C1)SCC1(CCN(CC1)C(=O)OC(C)(C)C)O)=O)=O | C21H24ClNO5S
